US09145441B2
Compound 84b. 3-Methyl-3-vinyl-dihydro-furan-2-one
A cooled (−78° C.) solution of N,N-diisopropylamine (4.7 mL, 33.815 mmol, dried over calcium hydride) in anhydrous tetrahydrofuran (20 mL) was treated with a solution of n-butyllithium in hexanes (12.7 mL, 31.702 mmol, 2.5 M). After stirring at −78° C. for 25 minutes, the mixture was treated with 3-methyl-dihydro-furan-2-one (2 mL, 21.135 mmol). After stirring at 0° C. for 1 h, the reaction was subsequently treated with a solution of di-μ-bromobis(tri-tert-butylphosphino)dipalladium(I) (164.2 mg, 0.211 mmol) in anhydrous tetrahydrofuran (5 mL) and a solution of vinyl bromide in tetrahydrofuran (31.7 mL, 81.702 mmol, 1 M). The reaction was slowly warmed to room temperature. After stirring for 16 h, the reaction was quenched with hydrochloric acid (2 M) and water. The aqueous layer was extracted with diethyl ether (2×). The organics were combined, dried over anhydrous sodium sulfate, filtered and the volatiles were removed in vacuo. The residue was purified by silica gel chromatography using a 100 g Isolute cartridge eluted with a continuous gradient of iso-hexanes/diethyl ether 1:0 to 3:2 to afford the title compound (1.272 g, 48%) as an orange oil. 1H NMR (300 MHz, CDCl3) δ 1.38 (s, 3H), 2.11-2.22 (m, 1H), 2.31-2.41 (m, 1H), 4.20-4.36 (m, 2H), 5.16-5.26 (m, 2H), 5.84-5.96 (m, 1H).

reactant | N,N-diisopropylamine | 33.815 mmol, 4.7 mL | C(C)(C)NC(C)C | C6H15N
reactant | n-butyllithium | C(CCC)[Li]
reactant | 3-methyl-dihydro-furan-2-one | 21.135 mmol, 2 mL | CC1C(OCC1)=O | C5H8O2
reactant | vinyl bromide | C(=C)Br | C2H3Br
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 81.702 mmol, 1 M, 31.7 mL | O1CCCC1 | C4H8O
product | 3-Methyl-3-vinyl-dihydro-furan-2-one | 1.272 g, 48% | CC1(C(OCC1)=O)C=C | C7H10O2
